US09193744B2
Crude ((3R,4aR,12bS)-3-(benzyloxy)-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-12b-yl)methan amine (34, R1=4-Fluorophenyl, R3=Trifluoromethyl, R4═H, R3=Benzyl) (0.135 mmol) was dissolved in DCM (3 mL) and methanesulfonyl chloride (0.026 mL, 0.334 mmol) and TEA (0.023 mL, 0.167 mmol) were added at rt. The reaction was stirred at rt for about 30 min, then diluted with DCM (10 mL) and concentrated with silica gel (3 g). The residue was purified on silica gel using a gradient of 0-10% EtOAc in DCM. Product fractions were combined and concentrated to yield N-(((3R,4aR,12bS)-3-(benzyloxy)-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-12b-yl)methyl)methanesulfonamide (35, R1=4-Fluorophenyl, R3=Trifluoromethyl, R4=Methanesulfonyl, R3=Benzyl) (40 mg, 39%) as a clear glass; LC/MS, method 3, Rt=2.95 min, MS m/z 616 (M+H)+.) The residue was used in step #4 without further purification.

reactant | ((3R,4aR,12bS)-3-(benzyloxy)-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-12b-yl)methan amine | C(C1=CC=CC=C1)O[C@@]1(CC[C@@]2([C@H](CCCC=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)C1)CN)C(F)(F)F | C31H31F4N3O
reactant | methanesulfonyl chloride | 0.334 mmol, 0.026 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(((3R,4aR,12bS)-3-(benzyloxy)-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-12b-yl)methyl)methanesulfonamide | C(C1=CC=CC=C1)O[C@@]1(CC[C@@]2([C@H](CCCC=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)C1)CNS(=O)(=O)C)C(F)(F)F | C32H33F4N3O3S
